US04785004
(a) 1-(4-nonylphenyl)-hex-1-ene (mixture of cis-and trans-isomers)
A suspension of 13.9 g of pentyltriphenylphosphonium bromide in 150 ml of tetrahydrofuran is cooled to -20° under argon, 21.2 ml of 1.6M butyllithium solution in hexane are added within a period of 5 minutes and the whole is stirred for a further 30 minutes at 0°-10°. 6 g of 4-nonylbenzaldehyde in 40 ml of tetrahydrofuran are added dropwise over a period of 30 minutes to the mixture, which has been cooled to from -60° to -70°. The reaction mixture is allowed to warm spontaneously to 0°-10°, stirred at this temperature for a further 45 minutes and concentrated by evaporation. The residue is taken up in hexane/ethyl acetate (1:1) and filtered over silica gel. The filtrate is concentrated by evaporation and chromatographed on silica gel with hexane. The title compound (mixture of cis- and trans-isomers) is obtained in the form of a colourless oil, which is used directly in the next stage.

reactant | pentyltriphenylphosphonium bromide | 13.9 g | [Br-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | 1.6M, 21.2 ml | C(CCC)[Li]
reactant | 4-nonylbenzaldehyde | 6 g | C(CCCCCCCC)C1=CC=C(C=O)C=C1 | C16H24O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(4-nonylphenyl)-hex-1-ene | C(CCCCCCCC)C1=CC=C(C=C1)C=CCCCC | C21H34
